US06864279B2
To a solution of 3-(4-Hydroxy-2-oxo-2H-chromen-3-yl)-propionic acid ethyl ester in THF at −78° C. was added LDA (1.5M, 3.05 mL) dropwise. A yellow precipitate was formed during the addition. The reaction was stirred at −78° C. for 15 min and allowed to warmed to 0° C. and stirred for 30 min, after which BnBr (0.24 mL in THF) was added dropwise. The reaction was warmed to room temperature, stirred for 12 hours, cooled to 0° C. and quenched with saturated ammonium chloride and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4 and conc. in vacuo to a crude colorless oil, which was purified by column chromatography to provide 2-Benzyl-3-(4-hydroxy-2-oxo-2H-chromen-3-yl)-propionic acid ethyl ester as a colorless oil (250 mg). MS: 351 [M-H].

reactant | 3-(4-Hydroxy-2-oxo-2H-chromen-3-yl)-propionic acid ethyl ester | C(C)OC(CCC=1C(OC2=CC=CC=C2C1O)=O)=O | C14H14O5
reactant | LDA | 1.5M, 3.05 mL | [Li+].CC(C)[N-]C(C)C
reactant | BnBr | 0.24 mL | C1=CC=C(C=C1)CBr | C7H7Br
solvent | THF | C1CCOC1 | C4H8O
product | 2-Benzyl-3-(4-hydroxy-2-oxo-2H-chromen-3-yl)-propionic acid ethyl ester | 250 mg | C(C)OC(C(CC=1C(OC2=CC=CC=C2C1O)=O)CC1=CC=CC=C1)=O | C21H20O5
